US07098219B2
1-Cyclopropyl-6-fluoro-1,4-dihydro-7-(4′-amino-3′-ethylpiperidin-1-yl)-4-oxo-naphthyridine-3-carboxylic acid
The condensation of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-naphthyridine-3-carboxylic acid with 4-amino-3-ethylpiperidine was carried out in acetonitrile in a similar manner as described in example 1, gave the titled product. Yield 71%, m.p 218–20° C., C19H23FN4O3, m/z 375 (M+1).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-naphthyridine-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)F)F)=O)C(=O)O | C12H8F2N2O3
reactant | 4-amino-3-ethylpiperidine | NC1C(CNCC1)CC | C7H16N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-7-(4′-amino-3′-ethylpiperidin-1-yl)-4-oxo-naphthyridine-3-carboxylic acid | Yield 71% | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(C(CC1)N)CC)F)=O)C(=O)O | C19H23FN4O3
